Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base / Streptomycin / Citric Acid / 
Atenolol
 
Attending: ___.
 
Chief Complaint:
melana
 
Major Surgical or Invasive Procedure:
EGD 
 
History of Present Illness:
___ with h/o CHF and GIB. Patient was discharged 1 day PTA for 
GI bleeding. See the discharge summary for that admission for 
details. In brief, the patient had angioectasia that required 
cauterization after his INR was 1.5 or less which was done 
today. The procedure was uncomplicated, but they noted a 
significant amount of fresh blood in his stomach and his HCT was 
25. He was admitted for observation. Of note, the patient was 
having symptoms of shortness of breath later today before the 
procedure when walking up there stairs. This was not present 
after discharge. No CP, palp, melena, hematemsis, or abd pain. 

ROS:a complete ROS was obtained and negative except for those 
mentioned above. 
 
Past Medical History:
-CAD s/p bare metal stent x2 in ___
-Hypertension  
-Ischemic cardiomyopathy Systolic dysfunction (EF 35%-40% ___  

-Dual chamber pacemaker 
-h/o VF s/p ICD for secondary prevention  
-Chronic atrial fibrillation  
-Rectal cancer s/p neoadjuvant chemotherapy, resection and 
adjuvant chemotherapy for positive LNs found at surgery  
-BPH  
-h/o stroke in ___ with residual R hand dysthesia  
-Cervical spondylosis  
-Sleep apnea, only uses CPAP intermittently  
-h/o gastritis ___ year ago
-insomnia, has been using chamomile tea and melatonin with 
minimal relief
 
Social History:
___
Family History:
Father died of an MI in his ___, Mother died of a PE in her ___, 
twin sister died of colitis age ___, no family h/o colon, 
breast, uterine, or ovarian CA  

 
Physical Exam:
96.6 98/58 70 20 98RA
NAD, awake, alert, oriented x 3
OP clear, conjunctiva w/o pallor
RRR, nml S1 S2, has II/VI holosystolic murmer at apex
lungs clear bilaterally
abd soft NT, ostomy wnl
___ warm, well perfused with 1+ ___ edema bilaterally
strength and sensation intact throughout
 
Pertinent Results:
___ 02:05PM   HCT-25.5*
___ 10:15AM   SODIUM-132* POTASSIUM-4.6 CHLORIDE-100 TOTAL 
CO2-24 ANION GAP-13
___ 10:15AM   CALCIUM-8.5 PHOSPHATE-3.6 MAGNESIUM-2.2
___ 10:15AM   ___
 
Brief Hospital Course:
___ with h/o CHF p/w GI bleeding.   
.
Primary Diagnosis: 285.1 ANEMIA, ACUTE BLOOD LOSS  
Secondary Diagnosis: 578.9 BLEEDING, GASTROINTESTINAL NOS  
The patient was electively admitted for an EGD(see HPI) that 
demonstrated there had been active bleeding in the stomach. 
Cauterization of the angioectasia was performed with achievement 
of hemostasis. The patient was given 1 U RBC's for symptomatic 
anemia with appropriate HCT increased to 30. He was discharged 
the following day without any evidence of bleeding.  He will 
continue PPI bid, holding ASA/Coumadin until f/u with PCP in the 
middle of next week to have his HCT checked.
.
Secondary Diagnosis: 414.01 CAD, NATIVE VESSEL  
BB continued. ASA held as above.
.
Secondary Diagnosis: 428.20 HEART FAILURE, (A3) CHRONIC SYSTOLIC 

Patient was discharged on lasix, but by exam he appears a bit 
more volume up. ___ have been from blood, IVF, and holding 
diuretics on last admission. Gave 1 dose IV lasix with blood 
with good effect. He was discharged on lasix 40 qAM and 20qPM(a 
previous dosing for him) with f/u lytes in 5 days.
.
Secondary Diagnosis: 401.1 HYPERTENSION, BENIGN  
on BB/ACEI
.
Secondary Diagnosis: 530.11 GASTROESOPHAGEAL REFLUX DISEASE 
(GERD)  
PPI as above.
.
Secondary Diagnosis: 585.3 CHRONIC KIDNEY DISEASE, STAGE III 
(___)  
stable

 
Medications on Admission:
2. Metoprolol Succinate 25 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
3. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Amitriptyline 25 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
5. Furosemide 20 mg Tablet Sig: One (1) Tablet PO BID (2 times a 

day).  
6. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 285.1 ANEMIA, ACUTE BLOOD LOSS  Secondary 
Diagnosis: 427.31 ATRIAL FIBRILLATION  
Secondary Diagnosis: 414.01 CAD, NATIVE VESSEL  
Secondary Diagnosis: 578.9 BLEEDING, GASTROINTESTINAL NOS  
Secondary Diagnosis: 401.1 HYPERTENSION, BENIGN  
Secondary Diagnosis: 530.11 GASTROESOPHAGEAL REFLUX DISEASE 
(GERD)  
Secondary Diagnosis: 585.3 CHRONIC KIDNEY DISEASE, STAGE III 
(___)  
Secondary Diagnosis: 153.9 MALIGNANT NEOPLASM, COLON  
Secondary Diagnosis: 428.23 HEART FAILURE, (A2) ACUTE ON CHRONIC 
SYSTOLIC  

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
As we discussed, you were admitted for bleeding in your stomach. 
An intervention was performed to stop that bleeding and your 
blood counts have been stable. As before, please be aware of the 
signs and symptoms of bleeding and call your doctor or return to 
the ER if these occur. Please continue the omeprazole at the 
higher dose. We have also increased the dose of your lasix to 40 
in the morning and 20 at night. Please weigh yourself every 
morning, call MD if weight goes up more than 3 lbs. Please do 
not take your aspirin or coumadin until directed by your doctor.
 
Followup Instructions:
___